US07517899B2
A mixture of (2S,3S)-toluene-4-sulfonic acid 3-(5-chloro-3-methyl-indol-1-yl)-2-hydroxy-3-phenyl-propyl ester (Intermediate in EXAMPLE 119, step 6, 0.52 g, 1.1 mmol), trifluoro-methanesulfonic acid methyl ester (0.6 mL, 5.5 mmol), and 2,6-di-tert-butyl-4-methyl-pyridine (1.1 g, 5.5 mmol) was heated at reflux in dichloromethane (20 mL) for 2 hours. The reaction was partitioned between ethyl acetate (25 mL) and a 1N aqueous solution of hydrochloric acid (25 mL). The organics were separated and washed with a saturated aqueous solution of sodium bicarbonate (25 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo. The crude product was purified via flash column chromatography (silica, 20% ethyl acetate in hexane) to give (2S,3S)-toluene-4-sulfonic acid 3-(5-chloro-3-methyl-indol-1-yl)-2-methoxy-3-phenyl-propyl ester. To a solution of toluene-4-sulfonic acid 3-(5-chloro-3-methyl-indol-1-yl)-2-methoxy-3-phenyl-propyl ester (0.13 g, 0.27 mmol) in methanol (10 mL) was added a 2N solution of methylamine in methanol (1.4 mL, 2.7 mmol) and the reaction heated in a sealed tube for 12 hours. Upon completion, the reaction was partitioned between a saturated aqueous solution sodium bicarbonate (25 mL) and dichloromethane (25 mL). The organics were separated and removed in vacuo. The residue was taken up in diethyl ether (25 mL) and washed with a 1 N aqueous solution of hydrochloric acid (25 mL). The aqueous layer was basified to pH 8 with a saturated aqueous solution of sodium bicarbonate (50 mL). The product was extracted with diethyl ether (25 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo. The free base was dissolved in a minimum amount of ethanol and treated with a 4N solution of hydrochloric acid in dioxane and stirred for 1 hour s. The ethanol was removed in vacuo to give [(2R,3S)-3-(5-chloro-3-methyl-1H-indol-1-yl)-2-methoxy-3-phenylpropyl]methylamine as a yellow oil. MS (ESI) m/z 343

reactant | toluene-4-sulfonic acid 3-(5-chloro-3-methyl-indol-1-yl)-2-methoxy-3-phenyl-propyl ester | 0.27 mmol, 0.13 g | ClC=1C=C2C(=CN(C2=CC1)C(C(COS(=O)(=O)C1=CC=C(C=C1)C)OC)C1=CC=CC=C1)C | C26H26ClNO4S
reactant | methylamine | CN | CH5N
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 2.7 mmol, 1.4 mL | CO | CH4O
product | [(2R,3S)-3-(5-chloro-3-methyl-1H-indol-1-yl)-2-methoxy-3-phenylpropyl]methylamine | ClC=1C=C2C(=CN(C2=CC1)[C@H]([C@@H](CNC)OC)C1=CC=CC=C1)C | C20H23ClN2O
